US06982263B2
(a) 3-Amino-1-benzyl-pyrrolidine-3-carbonitrile
To a solution of 2-hydroxy-4-methyl-pentanoic acid (1-benzyl-3-cyano-pyrrolidin-3-yl)-amide (0.315 g, 1.0 mmol) in dry THF (27 mL) was added DMAP (0.171 g, 1.4 mmol), p-nitrophenyl chloroformate (0.221 g, 1.1 mmol), and N-methylmorpholine (0. 121 mL, 1.1 mmol). The resulting mixture was allowed to stir overnight (20 h) under argon at room temperature, then treated with benzylamine (0.150 g, 1.4 mmol) and allowed to stir overnight (24 h). When the reaction was complete, the mixture was diluted with EtOAc (50 mL), then washed sequentially with saturated aq. NaHCO3 (50 mL), water and brine, dried over Na2SO4, filtered and concentrated to give 0.180 g (40% yield ) of the desired product after purification by prep-HPLC; 1H NMR (CDCl3) 7.25 (10H, m), 6.25 (1H, s), 5.4-5.1 (2H, m), 4.45 (2H, m), 3.65 (2H, m), 3.1-3.0 (1H, m), 2.98-2.57 (5H, m), 2.16 (1H, m), 1.73 (2H, m), 0.9 (6H, m). MS, m/z 449=M+1.

reactant | 2-hydroxy-4-methyl-pentanoic acid (1-benzyl-3-cyano-pyrrolidin-3-yl)-amide | 1.0 mmol, 0.315 g | C(C1=CC=CC=C1)N1CC(CC1)(C#N)NC(C(CC(C)C)O)=O | C18H25N3O2
reactant | p-nitrophenyl chloroformate | 1.1 mmol, 0.221 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | N-methylmorpholine | 1.1 mmol, 121 mL | CN1CCOCC1 | C5H11NO
reactant | benzylamine | 1.4 mmol, 0.150 g | C(C1=CC=CC=C1)N | C7H9N
solvent | THF | 27 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 1.4 mmol, 0.171 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 3-Amino-1-benzyl-pyrrolidine-3-carbonitrile | 0.180 g, 40% yield | NC1(CN(CC1)CC1=CC=CC=C1)C#N | C12H15N3
